US04036872
A solution of 1-chloro-4-ethoxybutan-2-one (7.5 g.) and triphenylphosphine (13.5 g.) in chloroform (20 ml.) was saturated with nitrogen and heated at reflux under nitrogen overnight. The chloroform was removed in vacuo and the residue was dissolved in dichloromethane (35 ml.). Dry diethyl ether (300 ml.) was added to precipitate 4-ethoxy-2-oxobutyltriphenylphosphonium chloride (19 g.). This compound was added portionwise to a solution of sodium carbonate (10g.) in water (1000 ml.) and the mixture was stirred vigorously for 24 hours. The solution was extracted with diethyl ether, and the ethereal extracts were dried over magnesium sulphate. The solvent was removed by evaporation and the residue was cooled and triturated with petroleum ether (b.p. 60°-80° C.) to give 3-ethoxypropionylmethylenetriphenylphosphorane (10.0 g.), m.p. 63°-65° C. Elemental analysis: found C, 76.6; H, 6.5; P, 8.2%; C24H25O2P requires: C, 76.6; H, 6.7;P 8.3%.

reactant | 1-chloro-4-ethoxybutan-2-one | 7.5 g | ClCC(CCOCC)=O | C6H11ClO2
reactant | triphenylphosphine | 13.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-ethoxypropionylmethylenetriphenylphosphorane | 10.0 g | C(C)OCCC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H25O2P
